US05380340
Step 1: Synthesis of 3-nitro-4,5,6,7-tetrahydropyrazolo-[1,5-a]pyrimidine
A solution of 51.2 g (0.4 moles) 3-amino-4-nitropyrazole in 650 ml dried DMF is slowly added by drops to a suspension of 10 g (0.4 moles) sodium hydride in 200 ml dried DMF. After the reaction is concluded, 121 g (0.6 moles) 1,3-dibromopropane in 250 ml DMF are added. The mixture is then heated for 5 hours accompanied by reflux. After cooling, the preparation is reduced to dryness. When the residue is treated with 300 ml dichloromethane and subsequently cooled to 0° C. the product is precipitated out together with NaBr. The raw product is recrystallized from 1200 ml ethanol. 59 g (38%) ocher-colored crystals with a melting point of 251°-252° C. are obtained.

reactant | 3-amino-4-nitropyrazole | 0.4 moles, 51.2 g | NC1=NNC=C1[N+](=O)[O-] | C3H4N4O2
reactant | sodium hydride | 0.4 moles, 10 g | [H-].[Na+]
reactant | 1,3-dibromopropane | 0.6 moles, 121 g | BrCCCBr | C3H6Br2
reactant | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | DMF | 650 ml | CN(C)C=O | C3H7NO
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 3-nitro-4,5,6,7-tetrahydropyrazolo-[1,5-a]pyrimidine | 59 g, 38% | [N+](=O)([O-])C=1C=NN2C1NCCC2 | C6H8N4O2
